US06337331B1
6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (33 mg, 0.12 mmol), triphenylphosphine (76 mg, 0.29 mmol) and (2-methyl-2H-1,2,4-triazol-3-yl)methanol (37 mg, 0.29 mmol) were dissolved in dry tetrahydrofuran (1.5 ml) with stirring. Diethyl azodicarboxylate (46μl, 0.29 mmol) was added and the reaction stirred at room temperature for 16 hours before purification by preparative thin layer chromatography to afford 6-cyclobutyl-3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]pyrimidine (31 mg, 70%) as a white crystalline solid, m.p. 181-184° C.; δH (400 MHz, d6-DMSO) 1.77-1.85 (1H, m, CH(CH2)3), 1.96-2.06 (1H, m, CH(CH2)3), 2.19-2.30 (4H, m, CH(CH2)3), 308 (1H, quintet, J=8.6 Hz, CH(CH2)3), 3.88 (3H, s, NMe, 5.65 (2H, s, OCH2), 7.34-7.38 (2H, m, ArH), 7.41-7.48 (1H, m, ArH), 7.94 (1H, s, triazole CH), 7.97 (1H, t, J=7.2 Hz, ArH), 9.25 (1H, s, pyrimidine CH); m/z (ES+) 380 (M+H+).

reactant | 6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.12 mmol, 33 mg | C1(CCC1)C=1C(NC=2N(C1)N=NC2C2=C(C=CC=C2)F)=O | C15H13FN4O
reactant | triphenylphosphine | 0.29 mmol, 76 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 0.29 mmol, 37 mg | CN1N=CN=C1CO | C4H7N3O
reactant | Diethyl azodicarboxylate | 0.29 mmol, 46μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 6-cyclobutyl-3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]pyrimidine | 31 mg, 70% | C1(CCC1)C=1C(=NC=2N(C1)N=NC2C2=C(C=CC=C2)F)OCC=2N(N=CN2)C | C19H18FN7O
